US07320973B2
A solution of 2-(4-bromophenethoxy)tetrahydro-2H-pyran (3.42 g, 12 mmol) in toluene (9.0 ml) and morpholine (1.22 g, 14 mmol) were added to a mixture of dry palladium acetate (32.3 mg, 0.14 mmol), 2-(di-t-butylphosphino)biphenyl (86.0 mg, 0.29 mmol) and sodium t-butoxide (1.73 g, 18 mmol), and they were stirred at 70° C. for 16 hours. Water was added to the reaction mixture. After the extraction with ethyl acetate, the product was extracted from the organic layer with 1 M hydrochloric acid. The aqueous layer was neutralized with an aqueous sodium hydroxide solution and the product was extracted with ethyl acetate. The organic layer was dried to obtain 4-morpholinophenethyl alcohol in the form of a light yellow solid (2.35 g, 95%).

reactant | 2-(4-bromophenethoxy)tetrahydro-2H-pyran | 12 mmol, 3.42 g | BrC1=CC=C(CCOC2OCCCC2)C=C1 | C13H17BrO2
reactant | morpholine | 14 mmol, 1.22 g | N1CCOCC1 | C4H9NO
reactant | 2-(di-t-butylphosphino)biphenyl | 0.29 mmol, 86.0 mg | C(C)(C)(C)P(C1=C(C=CC=C1)C1=CC=CC=C1)C(C)(C)C | C20H27P
reactant | sodium t-butoxide | 18 mmol, 1.73 g | CC(C)([O-])C.[Na+]
solvent | toluene | 9.0 ml | C1(=CC=CC=C1)C | C7H8
catalyst | palladium acetate | 0.14 mmol, 32.3 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | Water | O | H2O
product | 4-morpholinophenethyl alcohol | O1CCN(CC1)C1=CC=C(CCO)C=C1 | C12H17NO2
